US04192871
2β-Acetoxy-11β-chloroacetoxy-3α-hydroxy-5α-pregnan-20-one
11β-Chloroacetoxy-2α,3α-epoxy-5α-pregnan-20-one (5 g) was dissolved in glacial acetic acid (25 ml) and heated on a steam bath for 3.1/2 hrs. The solution was poured into saturated sodium bicarbonate solution, the white precipitate filtered off, washed well with water and dried. Preparation thick layer chromatography in ethyl acetate-petrol gave the title compound as a white foam (3.26 g). [α]D +93.2°.

reactant | 11β-Chloroacetoxy-2α,3α-epoxy-5α-pregnan-20-one | 5 g | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(C[C@@H]4[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O4)C | C23H33ClO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2β-Acetoxy-11β-chloroacetoxy-3α-hydroxy-5α-pregnan-20-one | 3.26 g | C(C)(=O)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(C1)C)OC(CCl)=O)C)O | C25H37ClO6
